* sparx_bpf_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_bpf_le p1 p2
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.007299475503
Fd1_1 0 s1 V1 -0.3649737751
Gr1_1_1 0 s1 x1_a1 0 -0.8939383698
Gr2_re_1_1 0 s1 x2_re_a1 0 740105.0744
Gr2_im_1_1 0 s1 x2_im_a1 0 652232.1657
Gr3_re_1_1 0 s1 x3_re_a1 0 182706.0583
Gr3_im_1_1 0 s1 x3_im_a1 0 316326.5157
Gr4_re_1_1 0 s1 x4_re_a1 0 126854.9331
Gr4_im_1_1 0 s1 x4_im_a1 0 -39242.78506
Gr5_re_1_1 0 s1 x5_re_a1 0 376844.0869
Gr5_im_1_1 0 s1 x5_im_a1 0 -54152.78884
Gr6_re_1_1 0 s1 x6_re_a1 0 473232.3774
Gr6_im_1_1 0 s1 x6_im_a1 0 -118691.0417
Gr7_re_1_1 0 s1 x7_re_a1 0 356023.0543
Gr7_im_1_1 0 s1 x7_im_a1 0 -254023.66
Gr8_re_1_1 0 s1 x8_re_a1 0 -86275.50831
Gr8_im_1_1 0 s1 x8_im_a1 0 604331.747
Gr9_re_1_1 0 s1 x9_re_a1 0 865736.3835
Gr9_im_1_1 0 s1 x9_im_a1 0 -140944.9247
Gd1_2 0 s1 p2 0 -0.0001266150737
Fd1_2 0 s1 V2 -0.006330753686
Gr1_1_2 0 s1 x1_a2 0 0.01142171906
Gr2_re_1_2 0 s1 x2_re_a2 0 -25777.07433
Gr2_im_1_2 0 s1 x2_im_a2 0 40706.4629
Gr3_re_1_2 0 s1 x3_re_a2 0 115374.2809
Gr3_im_1_2 0 s1 x3_im_a2 0 -105188.5944
Gr4_re_1_2 0 s1 x4_re_a2 0 385.122803
Gr4_im_1_2 0 s1 x4_im_a2 0 5069.073028
Gr5_re_1_2 0 s1 x5_re_a2 0 -350900.0781
Gr5_im_1_2 0 s1 x5_im_a2 0 68936.20043
Gr6_re_1_2 0 s1 x6_re_a2 0 445729.4992
Gr6_im_1_2 0 s1 x6_im_a2 0 -140525.7143
Gr7_re_1_2 0 s1 x7_re_a2 0 -335640.7244
Gr7_im_1_2 0 s1 x7_im_a2 0 272871.0929
Gr8_re_1_2 0 s1 x8_re_a2 0 557140.1665
Gr8_im_1_2 0 s1 x8_im_a2 0 476892.9319
Gr9_re_1_2 0 s1 x9_re_a2 0 -586854.9274
Gr9_im_1_2 0 s1 x9_im_a2 0 -555161.5813
Cx1_a1 x1_a1 0 2.131383765e-13
Gx1_a1 0 x1_a1 p1 0 0.0178787674
Fx1_a1 0 x1_a1 V1 0.8939383698
Rp1_a1 0 x1_a1 1
Cx2_re_a1 x2_re_a1 0 2.313809545e-12
Gx2_re_a1 0 x2_re_a1 p1 0 4.400839951e-08
Fx2_re_a1 0 x2_re_a1 V1 2.200419976e-06
Rp2_re_re_a1 0 x2_re_a1 1
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 5.166005079
Cx2_im_a1 x2_im_a1 0 2.313809545e-12
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -5.166005079
Rp2_im_im_a1 0 x2_im_a1 1
Cx3_re_a1 x3_re_a1 0 6.508689178e-12
Gx3_re_a1 0 x3_re_a1 p1 0 1.784094001e-08
Fx3_re_a1 0 x3_re_a1 V1 8.920470005e-07
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 12.4032378
Cx3_im_a1 x3_im_a1 0 6.508689178e-12
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -12.4032378
Rp3_im_im_a1 0 x3_im_a1 1
Cx4_re_a1 x4_re_a1 0 2.411309587e-12
Gx4_re_a1 0 x4_re_a1 p1 0 3.852644461e-07
Fx4_re_a1 0 x4_re_a1 V1 1.926322231e-05
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 0.06245146483
Cx4_im_a1 x4_im_a1 0 2.411309587e-12
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -0.06245146483
Rp4_im_im_a1 0 x4_im_a1 1
Cx5_re_a1 x5_re_a1 0 3.85371133e-11
Gx5_re_a1 0 x5_re_a1 p1 0 2.527269431e-08
Fx5_re_a1 0 x5_re_a1 V1 1.263634716e-06
Rp5_re_re_a1 0 x5_re_a1 1
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 35.67117255
Cx5_im_a1 x5_im_a1 0 3.85371133e-11
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -35.67117255
Rp5_im_im_a1 0 x5_im_a1 1
Cx6_re_a1 x6_re_a1 0 2.772660695e-11
Gx6_re_a1 0 x6_re_a1 p1 0 3.7524854e-08
Fx6_re_a1 0 x6_re_a1 V1 1.8762427e-06
Rp6_re_re_a1 0 x6_re_a1 1
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 27.44000284
Cx6_im_a1 x6_im_a1 0 2.772660695e-11
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -27.44000284
Rp6_im_im_a1 0 x6_im_a1 1
Cx7_re_a1 x7_re_a1 0 2.766617713e-11
Gx7_re_a1 0 x7_re_a1 p1 0 4.131609867e-08
Fx7_re_a1 0 x7_re_a1 V1 2.065804933e-06
Rp7_re_re_a1 0 x7_re_a1 1
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 29.55493394
Cx7_im_a1 x7_im_a1 0 2.766617713e-11
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -29.55493394
Rp7_im_im_a1 0 x7_im_a1 1
Cx8_re_a1 x8_re_a1 0 1.017943921e-11
Gx8_re_a1 0 x8_re_a1 p1 0 7.294639738e-08
Fx8_re_a1 0 x8_re_a1 V1 3.647319869e-06
Rp8_re_re_a1 0 x8_re_a1 1
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 11.96415681
Cx8_im_a1 x8_im_a1 0 1.017943921e-11
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -11.96415681
Rp8_im_im_a1 0 x8_im_a1 1
Cx9_re_a1 x9_re_a1 0 1.055863632e-11
Gx9_re_a1 0 x9_re_a1 p1 0 8.075691174e-08
Fx9_re_a1 0 x9_re_a1 V1 4.037845587e-06
Rp9_re_re_a1 0 x9_re_a1 1
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 12.41381857
Cx9_im_a1 x9_im_a1 0 1.055863632e-11
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -12.41381857
Rp9_im_im_a1 0 x9_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 -0.0001266150737
Fd2_1 0 s2 V1 -0.006330753685
Gr1_2_1 0 s2 x1_a1 0 0.01680926296
Gr2_re_2_1 0 s2 x2_re_a1 0 -24498.26775
Gr2_im_2_1 0 s2 x2_im_a1 0 38687.0059
Gr3_re_2_1 0 s2 x3_re_a1 0 113035.2595
Gr3_im_2_1 0 s2 x3_im_a1 0 -103056.0708
Gr4_re_2_1 0 s2 x4_re_a1 0 338.2355363
Gr4_im_2_1 0 s2 x4_im_a1 0 4451.93227
Gr5_re_2_1 0 s2 x5_re_a1 0 -369593.1565
Gr5_im_2_1 0 s2 x5_im_a1 0 72608.55583
Gr6_re_2_1 0 s2 x6_re_a1 0 462193.682
Gr6_im_2_1 0 s2 x6_im_a1 0 -145716.3984
Gr7_re_2_1 0 s2 x7_re_a1 0 -336518.7705
Gr7_im_2_1 0 s2 x7_im_a1 0 273584.9318
Gr8_re_2_1 0 s2 x8_re_a1 0 608161.2964
Gr8_im_2_1 0 s2 x8_im_a1 0 520565.2746
Gr9_re_2_1 0 s2 x9_re_a1 0 -550364.2501
Gr9_im_2_1 0 s2 x9_im_a1 0 -520641.5983
Gd2_2 0 s2 p2 0 0.004811931159
Fd2_2 0 s2 V2 0.2405965579
Gr1_2_2 0 s2 x1_a2 0 -1.315602761
Gr2_re_2_2 0 s2 x2_re_a2 0 958904.9862
Gr2_im_2_2 0 s2 x2_im_a2 0 454698.5018
Gr3_re_2_2 0 s2 x3_re_a2 0 218987.4401
Gr3_im_2_2 0 s2 x3_im_a2 0 253325.6676
Gr4_re_2_2 0 s2 x4_re_a2 0 158840.3146
Gr4_im_2_2 0 s2 x4_im_a2 0 24173.88461
Gr5_re_2_2 0 s2 x5_re_a2 0 342742.7539
Gr5_im_2_2 0 s2 x5_im_a2 0 -86506.1435
Gr6_re_2_2 0 s2 x6_re_a2 0 433560.7678
Gr6_im_2_2 0 s2 x6_im_a2 0 -166347.6829
Gr7_re_2_2 0 s2 x7_re_a2 0 314927.2771
Gr7_im_2_2 0 s2 x7_im_a2 0 -291719.1461
Gr8_re_2_2 0 s2 x8_re_a2 0 918294.3632
Gr8_im_2_2 0 s2 x8_im_a2 0 -312263.3342
Gr9_re_2_2 0 s2 x9_re_a2 0 -61525.31593
Gr9_im_2_2 0 s2 x9_im_a2 0 675511.4261
Cx1_a2 x1_a2 0 2.131383765e-13
Gx1_a2 0 x1_a2 p2 0 0.02631205523
Fx1_a2 0 x1_a2 V2 1.315602761
Rp1_a2 0 x1_a2 1
Cx2_re_a2 x2_re_a2 0 2.313809545e-12
Gx2_re_a2 0 x2_re_a2 p2 0 4.182513268e-08
Fx2_re_a2 0 x2_re_a2 V2 2.091256634e-06
Rp2_re_re_a2 0 x2_re_a2 1
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 5.166005079
Cx2_im_a2 x2_im_a2 0 2.313809545e-12
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -5.166005079
Rp2_im_im_a2 0 x2_im_a2 1
Cx3_re_a2 x3_re_a2 0 6.508689178e-12
Gx3_re_a2 0 x3_re_a2 p2 0 1.747924466e-08
Fx3_re_a2 0 x3_re_a2 V2 8.739622329e-07
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 12.4032378
Cx3_im_a2 x3_im_a2 0 6.508689178e-12
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -12.4032378
Rp3_im_im_a2 0 x3_im_a2 1
Cx4_re_a2 x4_re_a2 0 2.411309587e-12
Gx4_re_a2 0 x4_re_a2 p2 0 3.38359935e-07
Fx4_re_a2 0 x4_re_a2 V2 1.691799675e-05
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 0.06245146483
Cx4_im_a2 x4_im_a2 0 2.411309587e-12
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -0.06245146483
Rp4_im_im_a2 0 x4_im_a2 1
Cx5_re_a2 x5_re_a2 0 3.85371133e-11
Gx5_re_a2 0 x5_re_a2 p2 0 2.66190162e-08
Fx5_re_a2 0 x5_re_a2 V2 1.33095081e-06
Rp5_re_re_a2 0 x5_re_a2 1
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 35.67117255
Cx5_im_a2 x5_im_a2 0 3.85371133e-11
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -35.67117255
Rp5_im_im_a2 0 x5_im_a2 1
Cx6_re_a2 x6_re_a2 0 2.772660695e-11
Gx6_re_a2 0 x6_re_a2 p2 0 3.891093246e-08
Fx6_re_a2 0 x6_re_a2 V2 1.945546623e-06
Rp6_re_re_a2 0 x6_re_a2 1
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 27.44000284
Cx6_im_a2 x6_im_a2 0 2.772660695e-11
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -27.44000284
Rp6_im_im_a2 0 x6_im_a2 1
Cx7_re_a2 x7_re_a2 0 2.766617713e-11
Gx7_re_a2 0 x7_re_a2 p2 0 4.142418281e-08
Fx7_re_a2 0 x7_re_a2 V2 2.071209141e-06
Rp7_re_re_a2 0 x7_re_a2 1
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 29.55493394
Cx7_im_a2 x7_im_a2 0 2.766617713e-11
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -29.55493394
Rp7_im_im_a2 0 x7_im_a2 1
Cx8_re_a2 x8_re_a2 0 1.017943921e-11
Gx8_re_a2 0 x8_re_a2 p2 0 7.962659716e-08
Fx8_re_a2 0 x8_re_a2 V2 3.981329858e-06
Rp8_re_re_a2 0 x8_re_a2 1
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 11.96415681
Cx8_im_a2 x8_im_a2 0 1.017943921e-11
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -11.96415681
Rp8_im_im_a2 0 x8_im_a2 1
Cx9_re_a2 x9_re_a2 0 1.055863632e-11
Gx9_re_a2 0 x9_re_a2 p2 0 7.573544174e-08
Fx9_re_a2 0 x9_re_a2 V2 3.786772087e-06
Rp9_re_re_a2 0 x9_re_a2 1
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 12.41381857
Cx9_im_a2 x9_im_a2 0 1.055863632e-11
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -12.41381857
Rp9_im_im_a2 0 x9_im_a2 1
.ENDS sparx_bpf_le
